US05629430
In 2.63 ml of tetrahydrofuran, was dissolved 106.7 mg (198 μmol) of methyl 5-benzyloxy-3-t-butoxycarbonyl-1-chloromethyl-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate. Thereto, 64 mg of 10% palladium on carbon was added, and then 656.4 μl of 25% ammonium formate was added dropwise under ice cooling. The mixture was stirred for one hour, and then the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off to obtain methyl-3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate in a yield of 87.9 mg (99%).

reactant | methyl 5-benzyloxy-3-t-butoxycarbonyl-1-chloromethyl-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | 198 μmol, 106.7 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C3C(=C(NC13)C(F)(F)F)C(=O)OC)C(CN2C(=O)OC(C)(C)C)CCl | C26H26ClF3N2O5
reactant | ammonium formate | 656.4 μl | C(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 2.63 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 64 mg | [Pd] | Pd
product | methyl-3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | COC(=O)C1=C(NC2=C(C=C3C(=C12)C(CN3C(=O)OC(C)(C)C)CCl)O)C(F)(F)F | C19H20ClF3N2O5
